US07504508B2
(2S,4R)-4-[(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-methyl-amino]-butyric acid was prepared from (2S,4R)-4-[(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-methyl-amino]-butyric acid methyl ester was hydrolyzed to the acid by dissolving in tetrahydrofuran and ethanol and lithium hydroxide (1N) was added and heated 50° C. for 2 h. The mixture was cooled to room temperature, acidified to form a white precipitate. The solid was filtered to give to afford the product after HPLC purification.

reactant | (2S,4R)-4-[(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-methyl-amino]-butyric acid methyl ester | COC(CCCN(C)C1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C)=O | C31H34ClN3O4
reactant | ethanol | C(C)O | C2H6O
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2S,4R)-4-[(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-methyl-amino]-butyric acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)N(CCCC(=O)O)C)C)C1=CC=C(C=C1)Cl | C30H32ClN3O4
